US07915424B2
3-Chloro-5-(4-fluoro-3-methoxyphenylethynyl)-pyridine
Dissolve 1-fluoro-4-iodo-2-methoxybenzene, (prepared as described in PREPARATION 47), (480 mg, 1.9 mmol) in triethylamine (7 mL, 53 mmol) and add 3-chloro-5-ethynylpyridine, (prepared as described in PREPARATION 27), (250 mg, 1.8 mmol) followed by bis(triphenylphosphine)palladium (II) dichloride (51 mg, 0.07 mmol) and copper (I) iodide (28 mg, 0.15 mmol). Stir for 18 h at room temperature, concentrate, and purify by silica gel chromatography, eluting with 3:1 hexanes:ethyl acetate. Further purify on silica gel, eluting with 100% dichloromethane, to give the title compound as a white solid (450 mg, 94%).

reactant | 1-fluoro-4-iodo-2-methoxybenzene | 1.9 mmol, 480 mg | FC1=C(C=C(C=C1)I)OC | C7H6FIO
reactant | triethylamine | 53 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-5-ethynylpyridine | 1.8 mmol, 250 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
catalyst | bis(triphenylphosphine)palladium | 0.07 mmol, 51 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.15 mmol, 28 mg | [Cu]I
product | 3-Chloro-5-(4-fluoro-3-methoxyphenylethynyl)-pyridine | 450 mg, 94% | ClC=1C=NC=C(C1)C#CC1=CC(=C(C=C1)F)OC | C14H9ClFNO
